US07427390B2
916 mg (5 mmol) of 2-hydroxy-4-nitro-benzoic acid is dissolved in a mixture that consists of 8 ml of methanol and 32 ml of toluene, and it is slowly mixed with a solution of trimethylsilyldiazomethane in hexane (2 molar). After the addition is completed, stirring is continued for 1.25 hours at room temperature. After the reaction mixture is concentrated by evaporation, 1 g (about 100% of theory) of 2-hydroxy-4-nitro-benzoic acid methyl ester is obtained.

reactant | 2-hydroxy-4-nitro-benzoic acid | 5 mmol, 916 mg | OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H5NO5
reactant | methanol | 8 ml | CO | CH4O
reactant | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | hexane | 2 molar | CCCCCC | C6H14
product | 2-hydroxy-4-nitro-benzoic acid methyl ester | 1 g, about 100% | COC(C1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C8H7NO5
